### PR TITLE
feat: improve error message when passing local hypotheses to `grind`

### PR DESCRIPTION
**Pull request by marcusrossel**
This PR improves the error message produced when passing (automatically redundant) local hypotheses to `grind`.

### CODE REVIEW

**Comment by marcusrossel** [comment]
For example, previously, we'd have:

```lean
example : 0 = 0 := by
  have h : 1 = 1 := rfl
  grind [h] 
       --^
       -- unknown constant 'h'
```

And now, we have:

```lean
example : 0 = 0 := by
  have h : 1 = 1 := rfl
  grind [h]
       --^
       -- redundant parameter `h`, `grind` uses local hypotheses automatically
```

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 743c60224aae14939a483b307c578f9874dbe999 --onto 0077dd3d5569527f023865099890fa5aa9ffbe77`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-20 05:23:59)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 2efbe4ac36845733a2e731bba2f45b9c5b5f627d --onto d826474b14c44bad6b765c866dd4aa27307ad995`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-09-03 10:06:41)

File: tests/lean/run/grind_local_hyps.lean [hunk 1]
```diff
@@ -0,0 +1,18 @@
...
+
+/-- error: redundant parameter `h`, `grind` uses local hypotheses automatically -/
+#guard_msgs in
+example : 0 = 0 := by
+  have h : 1 = 1 := rfl
+  grind only [h]
+
+-- example : 0 = 1 := by
+--   have h : 0 = 1 := sorry
+--   grind [- h]
```
Comment (nomeata) [inline tests/lean/run/grind_local_hyps.lean]: Maybe add a test where a local hypothesis shadows a global declaration, just so that a change in behavior in that case will not go unnoticed?

Comment (marcusrossel) [reply tests/lean/run/grind_local_hyps.lean]: Sorry for the long delay, I've added test cases for this.

**Comment by marcusrossel** [comment]
awaiting-review

**Comment by marcusrossel** [comment]
changelog-no

**Comment by Kha** [comment]
@kim-em @marcusrossel This is ready to go after resolving the merge conflict?
